US04759869
A solution of p-toluenesulfonyl chloride (19.9 g, 0.1 mol) dissolved in toluene (30 ml) was dropwise added with stirring under ice cooling, to a solution of 6-methyloctanol (15.4 g, 0.1 mol) prepared according to the method of a literature (M.C.L.C. 27,417 (1974)) and dissolved in dry pyridine (43 ml), followed by slowly returning the temperature to room temperature, allowing the resulting material to stand overnight, extracting the reaction mixture with toluene after completion of the reaction, washing the resulting organic layer with 6N-hydrochloric acid, then with 2N-NaOH aqueous solution, further with water until the washing water became neutral, drying the layer, and distilling off toluene to obtain oily (S)-6-methyloctyl-p-toluenesulfonate (26.1 g).

reactant | p-toluenesulfonyl chloride | 0.1 mol, 19.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 6-methyloctanol | 0.1 mol, 15.4 g | CC(CCCCCO)CC | C9H20O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 43 ml | N1=CC=CC=C1 | C5H5N
product | (S)-6-methyloctyl-p-toluenesulfonate | 26.1 g | C[C@H](CCCCCOS(=O)(=O)C1=CC=C(C=C1)C)CC | C16H26O3S
